US07332501B2
b) 2-[6-Chloro-5-methyl-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N,N-dimethyl-acetamide
To a stirred solution of 1-(6-chloro-5methyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (0.38 g) in 10 ml of DMF at 0° C. were added 64 mg (1.1 eq.) of NaH (60% in oil). After stirring the mixture for 30 min. were added 0.16 ml (1.1 eq.) of dimethylamino-acetyl chloride. The mixture was stirred for an additional hour and then poured onto water and extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo to afford 300 mg (60%) of the title compound as a white solid.

reactant | 1-(6-chloro-5methyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 0.38 g | ClC1=C(C=C2C(=CNC2=C1)C(C(F)(F)F)=O)C | C11H7ClF3NO
reactant | NaH | 64 mg, 1.1 eq. | [H-].[Na+]
reactant | dimethylamino-acetyl chloride | 0.16 ml, 1.1 eq. | CN(C)CC(=O)Cl | C4H8ClNO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[6-Chloro-5-methyl-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N,N-dimethyl-acetamide | 300 mg, 60% | ClC1=C(C=C2C(=CN(C2=C1)CC(=O)N(C)C)C(C(F)(F)F)=O)C | C15H14ClF3N2O2
